US08372874B2
Step 1: Synthesis of toluene-4-sulfonic acid 3,3,3-trifluoro-propyl ester
To a solution of 3,3,3-trifluoro-propan-1-ol (1.1 g, 10.0 mmol) in DCM (10 mL) are added p-toluenesulfonyl chloride (2.3 g, 12.0 mmol), N,N-dimethylaminopyridine (0.1 g, 1.0 mmol) and triethyl amine (2.8 mL, 20.0 mmol). The reaction is stirred at room temperature for 3 d, then poured into water and extracted with DCM. The combined organic extracts are washed with 1N aqueous HCl solution, saturated aqueous NaHCO3 solution, brine and dried over Na2SO4, filtered and concentrated to afford 2.34 g of title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.47 (3H, s), 2.47-2.6 (2H, m), 4.22 (2H, t, J=6.4 Hz), 7.36 (2H, d, J=8.08 Hz), 7.8 (2H, d, J=7.8 Hz)

reactant | 3,3,3-trifluoro-propan-1-ol | 10.0 mmol, 1.1 g | FC(CCO)(F)F | C3H5F3O
reactant | p-toluenesulfonyl chloride | 12.0 mmol, 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyl amine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid 3,3,3-trifluoro-propyl ester | 2.34 g | FC(CCOS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C10H11F3O3S
